US06590103B2
A suspension of 2-bromo-5-(methanesulfonyl)-pyridine (27.5 g, 116 mmol), triethylamine (14.7 g. 145 mmol), and hydrazine hydrate (7.26 g, 145 mmol) in water (205 ml) was heated to 70° C. The reaction mixture became homogenous before the product started to precipitate out of this mixture (after 90 minutes). The reaction mixture was stirred at 70° C. for total of 5 hours and then was allowed to cool to room temperature and stirred for 18 hours. The precipitated product was collected by filtration, dried and triturated with hot ethanol to afford 2-hydrazino-5-(methanesulfonyl)-pyridine in 86% yield. 1H NMR (300 MHz, CDCI3) δ3.12 (s, 3H), 4.44 (br s, 2H), 6.80 (br d, J=8.7 Hz. 1H), 7.81 (dd. J1=9.0 Hz, J2=2.4 Hz, 1H), 8.38 (d, 2.3 Hz, 1H), 8.57 (br s, 1H).

reactant | 2-bromo-5-(methanesulfonyl)-pyridine | 116 mmol, 27.5 g | BrC1=NC=C(C=C1)S(=O)(=O)C | C6H6BrNO2S
reactant | triethylamine | 145 mmol, 14.7 g | C(C)N(CC)CC | C6H15N
reactant | hydrazine hydrate | 145 mmol, 7.26 g | O.NN
solvent | water | 205 ml | O | H2O
product | 2-hydrazino-5-(methanesulfonyl)-pyridine | 86% yield | N(N)C1=NC=C(C=C1)S(=O)(=O)C | C6H9N3O2S
